### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): add `LinearMap.toMatrix'_mulVec`

### PR DESCRIPTION
**Pull request by staroperator**
There is a `LinearMap.toMatrix_mulVec_repr` but not its `toMatrix'` version, which can be proved as a simple corollary of `Matrix.toLin'_apply`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/ToLin.lean [hunk 1]
```diff
@@ -334,6 +334,11 @@ theorem LinearMap.toMatrix'_apply (f : (n → R) →ₗ[R] m → R) (i j) :
 theorem Matrix.toLin'_apply (M : Matrix m n R) (v : n → R) : Matrix.toLin' M v = M *ᵥ v :=
   rfl
 
+@[simp]
+theorem LinearMap.toMatrix'_mulVec (f : (n → R) →ₗ[R] m → R) (v : n → R) :
+    LinearMap.toMatrix' f *ᵥ v = f v := by
+  simp [← Matrix.toLin'_apply (LinearMap.toMatrix' f)]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ToLin.lean]: A little shorter as
```suggestion
  rw [← toLin'_apply, toLin'_toMatrix']
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
